US07781591B2
5-Chloro-2-methyl-4-nitroaniline was treated with acetic anhydride in the presence of 4-dimethylaminopyridine (DMAP) in CH2Cl2 to provide N-(5-chloro-2-methyl-4-nitrophenyl)acetamide, which was reacted with vinyl magnesium bromide at −40° C. to room temperature to give N-(7-chloro-4-methyl-1H-indol-5-yl)acetamide. Deprotection of the acetyl group by heating in an aqueous HCl solution at the reflux temperature provided 5-amino-7-chloro-4-methylindole.

reactant | 5-Chloro-2-methyl-4-nitroaniline | ClC=1C(=CC(=C(N)C1)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(5-chloro-2-methyl-4-nitrophenyl)acetamide | ClC=1C(=CC(=C(C1)NC(C)=O)C)[N+](=O)[O-] | C9H9ClN2O3
